US07576198B1
To a solution of 4,6-dimethylpyrimidine (1.08 g, 10 mmol) in THF (40 ml) was added dropwise at −78° C. a solution of n-butyllithium. To the solution was added benzylbromide (1.71 g, 10 mmol). The mixture was warmed up to 0° C. and stirred for 30 minutes. To the reaction mixture was added an aqueous solution of ammonium chloride. The mixture was extracted with ethyl acetate, washed with water, dried and concentrated. The obtained residue was chromatographed on silica gel (n-hexane-ethyl acetate). The obtained fraction was concentrated to give 4-methyl-6-phenethylpyrimidine (1.7 g).

reactant | 4,6-dimethylpyrimidine | 10 mmol, 1.08 g | CC1=NC=NC(=C1)C | C6H8N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | benzylbromide | 10 mmol, 1.71 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-methyl-6-phenethylpyrimidine | 1.7 g | CC1=NC=NC(=C1)CCC1=CC=CC=C1 | C13H14N2
